US04857522
[1S-[1<a(R*),7<b(2S*,4S*),8a<b]]-2-Methylbutanoic acid, 1,2,3,7,8,8a-hexahydro-3-hydroxy-7-methyl-8-[2-(tetrahydro-4-hydroxy-6-oxo-2H-pyran-2-yl)ethyl]-1-naphthalenyl ester
To a dry 100 ml round-bottomed flask equipped with a stir bar and CaSO4 drying tube was added 3.32 g (7.44 mmol) of pravastatin, 3.47 g (16.8 mmol) of dicyclohexylcarbodiimide (DCC), 1.93 g (16.8 mmol) of N-hydroxysuccinimide and 50 ml of dry dimethylforamide (DMF) (distilled from CaO) and the mixture stirred at room temperature for 16 hours. The resulting suspension was filtered and the filtrate evaporated at 30° C. under reduced pressure. The residue was taken up in 50 ml of 20:1 CHCl3 :MeOH, filtered and evaporated. The resulting yellow oil was applied to 300 g of silica gel and eluted in a stepwise manner (1 liter of 40:1 CHCl3 :MeOH; 1 liter of 30:1 CHCl3 :MeOH, 1 liter of 20:1 CHCl3 :MeOH). The product was eluted with the 20:1 eluant. The good fractions (TLC, 8:1 CHCl3 :isopropyl alcohol (IPA) were combined and evaporated and the resulting oil triturated with ether to yield 2.15 g (71%) of the title compound as a white powder.

reactant | pravastatin | 7.44 mmol, 3.32 g | CC[C@H](C)C(=O)O[C@H]1C[C@@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@H](C[C@H](CC(=O)O)O)O)O | C23H36O7
reactant | dicyclohexylcarbodiimide | 16.8 mmol, 3.47 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-hydroxysuccinimide | 16.8 mmol, 1.93 g | ON1C(CCC1=O)=O | C4H5NO3
solvent | dimethylforamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-Methylbutanoic acid, 1,2,3,7,8,8a-hexahydro-3-hydroxy-7-methyl-8-[2-(tetrahydro-4-hydroxy-6-oxo-2H-pyran-2-yl)ethyl]-1-naphthalenyl ester | 2.15 g, 71% | CC(C(=O)OC1CC(C=C2C=CC(C(C12)CCC1OC(CC(C1)O)=O)C)O)CC | C23H34O6
